US05132409
A) Sodium 2-chloro-3-benzyloxypropionate
85 g of 2-chloro-3-benzyloxypropionic acid (0.396 mol) were suspended in 550 ml of water and neutralized to pH 7 with 10% sodium hydroxide. After stirring for 15 min, the resulting aqueous solution was washed with ethyl ether and evaporated to dryness under vacuum to give the desired compound.

reactant | 2-chloro-3-benzyloxypropionic acid | 0.396 mol, 85 g | ClC(C(=O)O)COCC1=CC=CC=C1 | C10H11ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 550 ml | O | H2O
product | Sodium 2-chloro-3-benzyloxypropionate | ClC(C(=O)[O-])COCC1=CC=CC=C1.[Na+] | InChI=1S/C10H11ClO3.Na/c11-9(10(12)13)7-14-6-8-4-2-1-3-5-8;/h1-5,9H,6-7H2,(H,12,13);/q;+1/p-1
